US05885986
A solution of 3.49 g (0.010 mol) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid prop-2-ynylamide in 200 ml of acetic acid was treated with 3.38 g (0.0151 mol) of N-iodosuccinimide while gassing with argon. After stirring at room temperature for 53 hrs. the dark suspension obtained was completely freed from the solvents and dried azeotropically several times with toluene. The red-brown residue was dissolved in 100 ml of THF, treated with 11.9 ml (0.087 mol) of dipropylamine and stirred at room temperature for 16 hrs. The suspension obtained was completely freed from the solvents, the residue was partitioned between ethyl acetate and 1N aqueous hydrochloric acid and extracted. The aqueous-acidic phase was made basic and extracted with ethyl acetate. The organic phase was concentrated and the yellow-brown product was chromatographed over basic Alox (grade III) with dichloromethane/ethyl acetate 17:3 as the eluent. There were obtained 1.1 g (25%) of 7-chloro-3-(5-dipropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as a yellow foam. A sample was recrystallized from isopropyl ether; m.p. 110°-112°.

reactant | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid prop-2-ynylamide | 0.010 mol, 3.49 g | C(C#C)NC(=O)C=1N=CN2C1CN(C(C1=C2C=CC(=C1Cl)F)=O)C | C16H12ClFN4O2
reactant | N-iodosuccinimide | 0.0151 mol, 3.38 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | dipropylamine | 0.087 mol, 11.9 ml | C(CC)NCCC | C6H15N
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 7-chloro-3-(5-dipropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.1 g, 25% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C=1OC(=CN1)CN(CCC)CCC)C)=O)F | C22H25ClFN5O2
